US03983241
2-amino-1-n-butoxycarbonyl-4,5-dicyanoimidazole
2 g of 2-amino-4,5-dicyanoimidazole was dissolved in 20 ml of suspension of acetone containing 1.3 g of sodium bicarbonate and then 2.1 g of n-butyl chloroformate was added dropwise to said solution at a room temperature. The resulting solution was refluxed during 30 minutes, and white crystal was separated out when the rection mixture was poured into ice-water. After recrystallizing the crude product from methanol, 2.7 g of the purified compound having a melting point of 170° to 172°C was obtained as needles (Yield rate: 77%).

reactant | 2-amino-4,5-dicyanoimidazole | 2 g | NC=1NC(=C(N1)C#N)C#N | C5H3N5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | n-butyl chloroformate | 2.1 g | ClC(=O)OCCCC | C5H9ClO2
solvent | acetone | 1.3 g | CC(=O)C | C3H6O
product | 2-amino-1-n-butoxycarbonyl-4,5-dicyanoimidazole | NC=1N(C(=C(N1)C#N)C#N)C(=O)OCCCC | C10H11N5O2
